US05624961
Synthesis of N-(3-hydroxy-6-methoxy-2,4,5-trimethylbenzyl)-2-(4-acetylamino-2-isopropyl-5-methylphenoxy)ethylamine
2-(4-Acetylamino-2-isopropyl-5-methylphenoxy)ethylamine (1.0 g) and triethylamine (0.50 g) were dissolved in N,N-dimethylformamide (20 ml), and 3-hydroxy-6-methoxy-2,4,5-trimethylbenzyl chloride (0.86 g) dissolved in N,N-dimethylformamide (10 ml) was added dropwise while stirring the mixture at room temperature. The mixture was stirred for 5 hours. After the completion of the reaction, the solvent was distilled off, and water and ethyl acetate were added. The mixture was stirred and an insoluble matter was collected by filtration. The obtained solid was recrystallized from ethyl acetate to give 100 mg of the title compound.

reactant | 2-(4-Acetylamino-2-isopropyl-5-methylphenoxy)ethylamine | 1.0 g | C(C)(=O)NC1=CC(=C(OCCN)C=C1C)C(C)C | C14H22N2O2
reactant | triethylamine | 0.50 g | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-6-methoxy-2,4,5-trimethylbenzyl chloride | 0.86 g | OC=1C(=C(CCl)C(=C(C1C)C)OC)C | C11H15ClO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(3-hydroxy-6-methoxy-2,4,5-trimethylbenzyl)-2-(4-acetylamino-2-isopropyl-5-methylphenoxy)ethylamine | 100 mg | OC=1C(=C(CNCCOC2=C(C=C(C(=C2)C)NC(C)=O)C(C)C)C(=C(C1C)C)OC)C | C25H36N2O4
